### PR TITLE
[Merged by Bors] - feat: `Finset/Multiset.powersetCard 1`

### PR DESCRIPTION
**Pull request by alreadydone**
for [#9130](https://github.com/leanprover-community/mathlib4/pull/9130/files#r1429368677)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Powerset.lean [hunk 1]
```diff
@@ -218,14 +218,21 @@ theorem card_powersetCard (n : ℕ) (s : Finset α) :
...
       rw [h]
       exact ⟨empty_subset s, rfl⟩⟩
 #align finset.powerset_len_zero Finset.powersetCard_zero
 
+theorem powersetCard_one (s : Finset α) :
+    s.powersetCard 1 = s.map ⟨_, Finset.singleton_injective⟩ := by
+  ext; rw [mem_powersetCard, card_eq_one, mem_map, ← exists_and_left, exists_congr]
+  intro a
+  rw [eq_comm, ← s.singleton_subset_iff]
+  apply and_congr_left; rintro rfl; rfl
```
Comment (alreadydone) [inline Mathlib/Data/Finset/Powerset.lean:234]: It's not straightforward to use the Finset result to prove this, because there are two layers' difference: `Multiset (Multiset _)` vs `Finset (Finset _)`. One could use  [Finset.map_val_val_powersetCard](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Powerset.html#Finset.map_val_val_powersetCard) but it's at the end of the file.

Comment (eric-wieser) [reply Mathlib/Data/Finset/Powerset.lean:234]: I think something along these lines would be good as a comment in the source code.

**Review by eric-wieser — APPROVED** [review]
Can you add the `Lists.sublistsLen` version too, if we don't already have it?

bors d+

**Comment by alreadydone** [comment]
Interestingly, we need a `reverse` for the sublist result:
```
theorem sublistsLen_one {α : Type*} (l : List α) : sublistsLen 1 l = l.reverse.map ([·]) :=
  l.rec (by rw [sublistsLen_succ_nil, reverse_nil, map_nil]) fun a s ih ↦ by
    rw [sublistsLen_succ_cons, ih, reverse_cons, map_append, sublistsLen_zero]; rfl
```
Maybe that means our definition of sublistsLen is slightly off?

**Comment by eric-wieser** [comment]
I think there might be a primed version too?

File: Mathlib/Data/Finset/Powerset.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Data/Finset/Powerset.lean]: I've moved [Finset.map_val_val_powersetCard](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Powerset.html#Finset.map_val_val_powersetCard) up and golfed the proof using the Multiset version.

**Comment by alreadydone** [comment]
[List.sublists](https://leanprover-community.github.io/mathlib4_docs/Std/Data/List/Basic.html#List.sublists) has the desired order but [List.sublistsLen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/List/Sublists.html#List.sublistsLen) is more like [List.sublists'](https://leanprover-community.github.io/mathlib4_docs/Std/Data/List/Basic.html#List.sublists'). There isn't a primed `sublistsLen'`.
